US04022908
To a solution of 25 g (0.112 mole) of 6-methoxy-3 -phenylbenzofuran in 400 ml of dichloromethane is added over 1 hour dropwise with stirring 17.9 g (0.112 mole) of bromine in 20 ml of dichloromethane. The solution is washed with 200 ml of 10% aqueous sodium acetate, dried and evaporated to provide 2-bromo-6-methoxy-3-phenylbenzofuran as a dark oil.

reactant | 6-methoxy-3 -phenylbenzofuran | 0.112 mole, 25 g | COC1=CC2=C(C(=CO2)C2=CC=CC=C2)C=C1 | C15H12O2
reactant | bromine | 0.112 mole, 17.9 g | BrBr | Br2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-bromo-6-methoxy-3-phenylbenzofuran | BrC=1OC2=C(C1C1=CC=CC=C1)C=CC(=C2)OC | C15H11BrO2
